US09216173B2
Sodium hydroxide (86.0 g, 2.15 mol) in water (400 mL) was added drop-wise to a stirred solution of diethyl rel-(1R,2R)-cyclopropane-1,2-dicarboxylate (200.0 g, 1.075 mol) in ethanol (400 mL) at 0° C. The reaction mixture was allowed to warm to ambient temperature. After 16 hours, the reaction mixture was concentrated under reduced pressure. The residue was diluted with cold water (500 mL) and extracted with ethyl acetate (2×500 mL). The organic layers were separated, and the aqueous layer was adjusted to pH˜2 using 1 N aqueous hydrochloric acid. The aqueous layer was extracted with ethyl acetate (2×1.0 L). The organic layers were combined, washed with water (1.0 L) and brine (500 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to afford rel-(1R,2R)-cyclopropane-1,2-dicarboxylic acid. 1H NMR (400 MHz, DMSO-d6): δ 12.57 (s, 2H), 1.95-1.85 (m, 2H), 1.30-1.20 (m, 2H).

reactant | Sodium hydroxide | 2.15 mol, 86.0 g | [OH-].[Na+]
reactant | diethyl rel-(1R,2R)-cyclopropane-1,2-dicarboxylate | 1.075 mol, 200.0 g | [C@@H]1([C@@H](C1)C(=O)OCC)C(=O)OCC | C9H14O4
solvent | water | 400 mL | O | H2O
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | rel-(1R,2R)-cyclopropane-1,2-dicarboxylic acid | [C@@H]1([C@@H](C1)C(=O)O)C(=O)O | C5H6O4
